US04315095
A suspension of 4.4 g (0.024 mole) of 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid in 30 ml of methanol at 0° C. is saturated with dry hydrogen chloride after which the solution is heated under reflux for 12 hours. The solution is then concentrated and allowed to crystallize to afford methyl 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionate, dihydrochloride (4.0 g).

reactant | 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionic acid | 0.024 mole, 4.4 g | NC(C(=O)O)(CC1=CN=CN1)CF | C7H10FN3O2
reactant | hydrogen chloride | Cl | ClH
reactant | methanol | 30 ml | CO | CH4O
product | methyl 2-amino-2-fluoromethyl-3-(5-imidazolyl)propionate, dihydrochloride | 4.0 g | Cl.Cl.NC(C(=O)OC)(CC1=CN=CN1)CF | InChI=1S/C8H12FN3O2.2ClH/c1-14-7(13)8(10,4-9)2-6-3-11-5-12-6;;/h3,5H,2,4,10H2,1H3,(H,11,12);2*1H
